US07893049B2
H-1a) 4-bromo-3-chlorobenzyl bromide
A suspension of N-bromosuccinimide (16.4 g, 87.4 mmol), 4-bromo-chlorotoluene (18.2 g, 87.4 mmol) and α,α′-azoisobutyronitrile (0.67 g, 4 mmol) in 90 mL dichloromethane is heated in the microwave for 1 min at 100° C. and then cooled overnight at −20° C. The resulting white precipitate is filtered and the filtrate is evaporated down. The residue is stirred with 100 mL diethyl ether, filtered, evaporated down and filtered again.

reactant | N-bromosuccinimide | 87.4 mmol, 16.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-bromo-chlorotoluene | 87.4 mmol, 18.2 g | BrC1=CC(=C(C=C1)C)Cl | C7H6BrCl
reactant | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 4-bromo-3-chlorobenzyl bromide | BrC1=C(C=C(CBr)C=C1)Cl | C7H5Br2Cl
